US08426613B2
6,7-dihydro-1-benzothiophen-4(5H)-one was obtained with an overall yield of 43% via the acylation of thiophene by succinic anhydride followed by reduction of the ketone formed and by the cyclisation of 4-(2-thienyl)butanoic acid in the presence of the laton's reagent. Next, 4,5,5a,6-tetrahydro-7H-indeno[5,4-b]thiophen-7-one was synthesised from 6,7-dihydro-1-benzothiophen-4(5H)-one with an overall yield of 30%. The latter product was further reacted with one equivalent of PhLi in ether followed by acidification of the reaction medium to give a mixture of 7-phenyl-5,5a-dihydro-4H-indeno[5,4-b]thiophene and 7-phenyl-5,8-dihydro-4H-indeno[5,4-b]thiophene as shown in the scheme below

reactant | 6,7-dihydro-1-benzothiophen-4(5H)-one | S1C=CC2=C1CCCC2=O | C8H8OS
reactant | PhLi | one equivalent | [Li]C=1C=CC=CC1
reactant | 7-phenyl-5,5a-dihydro-4H-indeno[5,4-b]thiophene | C1(=CC=CC=C1)C1=CC2CCC=3SC=CC3C2=C1 | C17H14S
reactant | 7-phenyl-5,8-dihydro-4H-indeno[5,4-b]thiophene | C1(=CC=CC=C1)C1=CC=2CCC=3SC=CC3C2C1 | C17H14S
solvent | ether | CCOCC | C4H10O
product | 4,5,5a,6-tetrahydro-7H-indeno[5,4-b]thiophen-7-one | yield of 30% | C=1C2=C(SC1)CCC1CC(C=C12)=O | C11H10OS
